Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Cat Hair Std Extract / Mold/Yeast/Dust
 
Attending: ___
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
HPI: ___ 2 weeks of abdominal discomfort after yoga class with 
accompanying 7lbs weight loss, nausea, and general malaise. 
Denies decreased appetite, continues to pass flatus and have 
regular bowel movement.s No fever, HA, diarrhea, vomiting, 
hematochezia, hematuria, increased urinary frequency/urgency.
Last colonoscopy ___ (overdue since ___.

 
Past Medical History:
___: asthma, L side diverticulitis, incidentally-found IgM
monoclonal gammopathy (BMx c/w early lymphoplasmocytic lymphoma,
indolent) nasal polyps.

SH: ___
Family History:
Father died at ___ with heart problems. His mother at ___ with a 
history of breast cancer. His sister is ___ years younger and has 
pemphigus.  

 
Physical Exam:
Vitals: T 99.2  HR 83  BP 142/82  RR 14  O2 98RA  
Gen: well appearing, non-toxic
HEENT: NCAT, PERRL, EOMI, MMM, mild thrush on tongue
Neck: no LAD
Lungs: CTAB, EBBS, no crackles, no wheezes
CV: RRR, no MRG
___: positive McBurney's and Psoas signs. Normoactive BS, TTP
RLQ, mild distension, no rebound/guarding, no masses, no CVAT.
Negative Rovsings, Obturator, Murphys.
MSK: nl ROM, nl strength b/l
Skin: healing superficial lesions on R mandible s/p recent
removal of precancerous lesion. no prominent ___ scars.
Neuro: CNII-XII intact, MS intact

 
Pertinent Results:
___ 06:04AM BLOOD WBC-8.7 RBC-3.29* Hgb-9.9* Hct-30.1* 
MCV-92 MCH-30.1 MCHC-32.9 RDW-13.7 RDWSD-46.2 Plt ___
___ 03:30PM BLOOD Neuts-78.5* Lymphs-7.7* Monos-12.5 
Eos-0.5* Baso-0.2 Im ___ AbsNeut-10.44*# AbsLymp-1.02* 
AbsMono-1.66* AbsEos-0.06 AbsBaso-0.03
___ 06:04AM BLOOD Plt ___
___ 06:35AM BLOOD ___ PTT-29.8 ___
___ 06:04AM BLOOD Glucose-101* UreaN-13 Creat-1.3* Na-138 
K-3.9 Cl-102 HCO3-25 AnGap-15
___ 06:04AM BLOOD Calcium-8.5 Phos-3.3 Mg-2.3

Labs:
133  96   21
------------<103  
4.3  25  1.5
 
        10.9
13.3>-----<309
        33.4

Coags: normal
N: 78.5  L: 7.7  Eos: 0.5  AbsN: 10.44  AbsL: 1.02   AbsMono 
1.66

Imaging:
1. Approximately 8.5 x 4.0 x 4.0 cm area of inflammation caudal
to the cecum which appears to be centered around perforated 
acute
appendicitis. The perforated appendix is difficult to 
distinguish
from adjacent phlegmon/developing abscess. There may be more a
4.0 x 3.5 x 3.3 cm peripherally enhancing, septated collection
along the inferior margin of the appendix.  Since the appendix
appeared normal on the ___ CT, an underlying mucocele 
is
not likely. 
2. Diverticulosis without acute diverticulitis. 
3. Mild pneumobilia and air in the main pancreatic duct, without
biliary or pancreatic ductal dilatation, are new compared to ___.  Please correlate clinically whether there has been
interim sphincterotomy. 
4. The spleen measures 12 cm, not enlarged but slightly larger
than on the ___ CT and ___ ultrasound.  The difference is
within the limits of normal variation allowing for differences 
in
blood volume.  Given the history of MGUS versus Waldenstrom's
provided for ___ ultrasound, please correlate with other
clinical indicators. 
5. Unchanged 8 mm subpleural nodular density at the lateral 
right
lung base since ___, consistent with nonaggressive
etiology. 
 

 
Brief Hospital Course:
___ 2w h/o abdominal pain localized 4d/a to RLQ, CT demonstrated 
perforated appendix with adjacent phlegmon vs. abscess 
development. The patient was well-appearing, vitals were stable, 
exam was reassuring, and pain not requiring control. the patient 
was  Admitted to Surgery for abx (C/F), IV fluid, and 
monitoring. 
the patient was treated with ABx and responded well his 
abdominal pain subsided his diet was advanced and he tolerated 
it well. no fever his WBC trended down.
the patient was discharged home to be further followed in the 
out patient setting after having colonoscopy as an out patient. 
in our clinic we will discuss the need for future interval 
appendectomy
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Albuterol Inhaler 2 PUFF IH PRN wheezing 
3. ClonazePAM 0.25 mg PO DAILY:PRN anxiety 
4. Finasteride 5 mg PO DAILY 
5. Fluticasone Propionate 110mcg 2 PUFF IH BID 
6. Metoprolol Tartrate 75 mg PO BID 
7. Mupirocin Nasal Ointment 2% 2 % nasal prn 
8. Pantoprazole 40 mg PO Q24H 
9. Pravastatin 20 mg PO QPM 
10. Tamsulosin 0.4 mg PO QHS 
11. Triamterene-HCTZ (37.5/25) 1 CAP PO 3X/WEEK (___) 
12. Ursodiol 300 mg PO DAILY 
13. ascorbate calcium-bioflavonoid ___ mg oral DAILY 
14. Vitamin D 1000 UNIT PO DAILY 
15. magnesium 250 mg oral DAILY 
16. Psyllium Powder 1 PKT PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 
Do not exceed 3000mg per day  
2.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 (One) tablet(s) 
by mouth every twelve (12) hours Disp #*17 Tablet Refills:*0 
3.  Docusate Sodium 100 mg PO BID 
Take for constipation 
RX *docusate sodium 100 mg 1 (One) capsule(s) by mouth twice a 
day Disp #*45 Capsule Refills:*0 
4.  Albuterol Inhaler 2 PUFF IH PRN wheezing  
5.  ascorbate calcium-bioflavonoid ___ mg oral DAILY  
6.  Aspirin 81 mg PO DAILY  
7.  ClonazePAM 0.25 mg PO DAILY:PRN anxiety  
8.  Finasteride 5 mg PO DAILY  
9.  Fluticasone Propionate 110mcg 2 PUFF IH BID  
10.  magnesium 250 mg oral DAILY  
11.  Metoprolol Tartrate 75 mg PO BID  
12.  Mupirocin Nasal Ointment 2% 2 % nasal prn  
13.  Pantoprazole 40 mg PO Q24H  
14.  Pravastatin 20 mg PO QPM  
15.  Psyllium Powder 1 PKT PO DAILY  
16.  Tamsulosin 0.4 mg PO QHS  
17.  Triamterene-HCTZ (37.5/25) 1 CAP PO 3X/WEEK (___)  
18.  Ursodiol 300 mg PO DAILY  
19.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
perforated appendicitis, 8.5x 4.0x 4.0 inflammation c/w phlegmon
diverticulosis
hypersplenism 
subplueral nodular density at right lung base, unchanged since 
___
umbilical hernia
 
Discharge Condition:
Level of Consciousness: Alert and interactive.
Mental Status: Clear and coherent.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___, 

You were admitted to ___ after 
you were found to have a perforated appendix with a collection 
on CT scan. You were given bowel rest, IV antibiotics, and 
monitored. Your pain improved, and your white blood cell count ( 
a marker of infection) improved to normal levels. You are now 
ready to be discharged home to continue your recovery. You will 
have a colonoscopy in six weeks, and then follow up with the 
Acute Care Surgery clinic to determine when to take out your 
appendix, after the inflammation is resolved. 

 ACTIVITY:
- Do not drive until you have stopped taking pain medicine and 
feel you could respond in an emergency.
 
- You may climb stairs, and you should continue to walk several 
times a day.  
 
- You may go outside, but avoid traveling long distances until 
you see your surgeon at your next visit.
 
- You may start some light exercise when you feel comfortable.
 
- Heavy exercise may be started after 6 weeks, but use common 
sense and go slowly at first.
 
- You may resume sexual activity unless your doctor has told you 
otherwise.
 

 
HOW YOU MAY FEEL: 
 
- You may feel weak or "washed out" for 6 weeks. You might want 
to nap often. Simple tasks may exhaust you.
 
- You may have a sore throat because of a tube that was in your 
throat during the endoscopy.
 

 
YOUR BOWELS:
 
- Constipation is a common side effect of medicine such as 
oxycodone. If needed, you may take a stool softener (such as 
Colace, one capsule) or gentle laxative (such as milk of 
magnesia, 1 tbs) twice a day. You can get both of these 
medicines without a prescription.
 
- If you go 48 hours without a bowel movement, or have pain 
moving the bowels, call your surgeon.
  
You should schedule a colonoscopy for 6 weeks from now. You 
should follow up with the Acute Care Surgery clinic after your 
colonoscopy, to discuss surgery to remove your appendix. You may 
discuss repair of your umbilical hernia at this appointment. 
 
PAIN MANAGEMENT:
 You should take acetaminophen (Tylenol) as directed, not to 
exceed 3000mg per day. You have not needed the oxycodone. 
- Your pain should get better day by day. If you find the pain 
is getting worse instead of better, please contact your surgeon.
If you experience any of the folloiwng, please contact your 
surgeon:
 
- sharp pain or any severe pain that lasts several hours
- pain that is getting worse over time
- pain accompanied by fever of more than 101
- a drastic change in nature or quality of your pain
 
MEDICATIONS:
- Take all the medicines you were on before the operation just 
as you did before, unless you have been told differently.
- If you have any questions about what medicine to take or not 
to take, please call your surgeon. 

Thank you for allowing us to participate in your care. We hope 
you have a speedy return to your normal life. 

- Your ___ care team

 
Followup Instructions:
___